US04185115
Preparation of p-Heptyloxybenzyl alcohol
To a solution of 125 ml. of 1 molar borane in tetrahydrofuran chilled in an ice bath is added 19.3 g. of p-heptyloxybenzoic acid in 160 ml. of tetrahydrofuran over a period of 45 minutes. The mixture is stirred at room temperature for 5.5 hours, poured into ice and water and 30 ml. of concentrated hydrochloric acid added. The mixture is filtered and the solid washed with water to give the product as a white waxy solid.

reactant | borane | 1 molar | B | BH3
reactant | p-heptyloxybenzoic acid | C(CCCCCC)OC1=CC=C(C(=O)O)C=C1 | C14H20O3
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | p-Heptyloxybenzyl alcohol | C(CCCCCC)OC1=CC=C(CO)C=C1 | C14H22O2
